US07141564B2
(a) 2-(4-tert-Butoxycarbonylamino-cyclohexyl)-3-(6-methoxy-quinolin-4-yl)-3-oxo-propionic acid methyl ester
(4-Tert-Butoxycarbonylamino-cyclohexyl)-acetic acid methyl ester (1.00 g, 3.69 mmol) was dissolved in tetrahydrofuran (20 mL) and cooled to −78° C. To the solution lithium hexamethyldisilazide in tetrahydrofuran (1M, 11.0 mL, 11.0 mmol) was added dropwise. The reaction mixture was stirred for 20 minutes at −78° C. and then 6-methoxy-quinoline-4-carboxylic acid methyl ester (1.60 g, 7.38 mmol) was added as a solution in tetrahydrofuran (10 mL). The mixture was allowed to warm to room temperature and stirred for 12 hours. The reaction was quenched by the addition of water (2 mL), the solvent removed in vacuo and the residue partitioned between ethyl acetate (2×100 mL) and water (20 mL). The pH of the aqueous phase was adjusted to 10 to obtain the maximum degree of extracted material into the organic phases. The organic phases were combined, dried over magnesium sulfate and the volatiles removed under suction. The resulting residue was purified by column chromatography on silica gel using an ethyl acetate and hexane solvent gradient to provide the desired compound as a colourless oil (190 mg, 12%).

reactant | (4-Tert-Butoxycarbonylamino-cyclohexyl)-acetic acid methyl ester | 3.69 mmol, 1.00 g | COC(CC1CCC(CC1)NC(=O)OC(C)(C)C)=O | C14H25NO4
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 6-methoxy-quinoline-4-carboxylic acid methyl ester | 7.38 mmol, 1.60 g | COC(=O)C1=CC=NC2=CC=C(C=C12)OC | C12H11NO3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 11.0 mmol, 1M, 11.0 mL | O1CCCC1 | C4H8O
product | 2-(4-tert-Butoxycarbonylamino-cyclohexyl)-3-(6-methoxy-quinolin-4-yl)-3-oxo-propionic acid methyl ester | 190 mg, 12% | COC(C(C(=O)C1=CC=NC2=CC=C(C=C12)OC)C1CCC(CC1)NC(=O)OC(C)(C)C)=O | C25H32N2O6
